US06962923B2
N-[3-(2-hydroxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-pyridine-2-sulphonamide
To N-[3-(2-acetoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazole-5-yl]-2-pyridine sulfonamide (Preparation 35) (1.05 g) in dioxan (10 ml) was added 1N NaOH (aq.) (5.34 ml). The mixture was stirred at 50° C. for 1 hour. The reaction was concentrated under reduced pressure to low volume and then partitioned between ethyl acetate (20 ml) and water (15 ml). The aqueous layer was separated and acidified to pH 6 with 2N hydrochloric acid (aq.). the product was extracted with ethyl acetate (2×20 ml), washed with water, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with solvent gradient, pentane:ethyl acetate (4:6 to 0:1, by volume) to yield the title compound as a colourless foam (560 mg).

reactant | N-[3-(2-acetoxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazole-5-yl]-2-pyridine sulfonamide | 1.05 g | C(C)(=O)OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)NS(=O)(=O)C1=NC=CC=C1)C | C20H22N4O5S
reactant | NaOH | 1N, 5.34 ml | [OH-].[Na+]
solvent | dioxan | 10 ml | O1CCOCC1 | C4H8O2
product | N-[3-(2-hydroxyethoxy)-1-methyl-4-(4-methylphenyl)-1H-pyrazol-5-yl]-pyridine-2-sulphonamide | 560 mg | OCCOC1=NN(C(=C1C1=CC=C(C=C1)C)NS(=O)(=O)C1=NC=CC=C1)C | C18H20N4O4S
